US09233956B2
N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
To a solution of N-{5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.910 g, 2.06 mmol) (prepared in a manner analogous to Intermediate 35) in DMA (8.24 mL) was added NBS (0.385 g, 2.16 mmol). The reaction stirred 30 min at rt and then tetrahydro-2H-pyran-4-carbothioamide (0.389 g, 2.68 mmol) was added. The reaction stirred 16 h at rt. The reaction mixture was poured into water (150 mL), causing precipitation of a solid. The solid was collected by vacuum filtration, redissolved in EtOAc (50 mL), and concentrated onto silica gel. Purification by chromatography (20 to 100% EtOAc:hexanes) afforded the title compound (690 mg, 1.21 mmol, 58.5% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.86 (s, 1H), 8.58 (d, J=5.3 Hz, 1H), 7.45-7.69 (m, 4H), 7.42 (dd, J=7.5, 2.0 Hz, 1H), 7.32 (dd, J=10.1, 8.8 Hz, 1H), 7.14 (d, J=5.3 Hz, 1H), 3.95 (dd, J=11.7, 2.0 Hz, 2H), 3.40-3.56 (m, 2H), 3.25-3.41 (m, 1H), 2.02 (dd, J=12.9, 1.6 Hz, 2H), 1.65-1.86 (m, 2H). MS (ESI): 567.09 [M+H]+.

reactant | N-{5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 2.06 mmol, 0.910 g | ClC1=NC=CC(=N1)CC(=O)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C18H11ClF3N3O3S
reactant | NBS | 2.16 mmol, 0.385 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | tetrahydro-2H-pyran-4-carbothioamide | 2.68 mmol, 0.389 g | O1CCC(CC1)C(N)=S | C6H11NOS
reactant | water | 150 mL | O | H2O
solvent | DMA | 8.24 mL | CC(=O)N(C)C | C4H9NO
product | N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 1.21 mmol, 690 mg, 58.5% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
